US06579872B1
N-[5-(4cyanobenzamido)-2-methylphenyl]-3-(chloromethyl)benzamide
Using an analogous procedure to that described in Example 10, N-(3-amino-4-methylphenyl)-4-cyanobenzamide was reacted with 3-(chloromethyl)benzoyl chloride to give the title compound as a solid (0.267 g); NMR Spectrum: (DMSOd6) 2.2 (s, 3H), 4.84 (s, 2H), 7.25 (d, 1H), 7.55 (m, 2H), 7.64 (m, 1H), 7.83 (s, 1H), 7.99 (m, 4H), 8.1 (d, 2H), 9.97 (s, 1H), 10.46 (s, 1H); Mass Spectrum: M−H− 402.

reactant | N-(3-amino-4-methylphenyl)-4-cyanobenzamide | NC=1C=C(C=CC1C)NC(C1=CC=C(C=C1)C#N)=O | C15H13N3O
reactant | 3-(chloromethyl)benzoyl chloride | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
product | N-[5-(4cyanobenzamido)-2-methylphenyl]-3-(chloromethyl)benzamide | 0.267 g | C(#N)C1=CC=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=CC=C2)CCl)=O)C)C=C1 | C23H18ClN3O2
